US04261890
A solution of 50 g. (0.26 mole) of 3,4-dimethoxyphenylacetic acid, 68 g. (0.28 mole) of EEDQ and 50 g. (0.26 mole) of α-(1-amino-1-methylethyl)-3-methoxybenzenemethanol in 450 ml. tetrahydrofuran are stirred for three days at 25° C., and then heated for 5 hours at 65° C. Tetrahydrofuran is evaporated in vacuo, and the residue is taken up with ice and 10% aqueous H2SO4 solution to pH 2. The amide is extracted twice with 500 ml. ethyl acetate. The combined organic extracts are washed with 500 ml. dilute aqueous NH4OH solution, dried (Na2SO4) and evaporated to dryness in vacuo. The residual oil is dissolved in hot diethyl ether from which it crystallizes to give 72.0 g. of impure product. Recrystallization from diethyl ether gives 70 g. (72% yield) of N-(β-hydroxy-3-methoxy-α,α-dimethylphenethyl)-3,4-dimethoxybenzeneacetamide as white crystals of analytical purity, m.p. 137°-138° C.

reactant | 3,4-dimethoxyphenylacetic acid | 0.26 mole | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | EEDQ | 0.28 mole | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | α-(1-amino-1-methylethyl)-3-methoxybenzenemethanol | 0.26 mole | NC(C)(C)C(O)C1=CC(=CC=C1)OC | C11H17NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(β-hydroxy-3-methoxy-α,α-dimethylphenethyl)-3,4-dimethoxybenzeneacetamide | 72% yield | OC(C(C)(C)NC(CC1=CC(=C(C=C1)OC)OC)=O)C1=CC(=CC=C1)OC | C21H27NO5
